US07709471B2
10-amino-2-cyclohexyl-2,6,9,11-tetrazabicyclo[5.4.0]undeca-7,9,11-trien-5-one
2,4-dichloro-5-nitropyrimidine (Aldrich; 10 g, 0.052 mol) was dissolved in THF (250 mL). To this was added DIPEA (11 mL, 0.062 mol) and the reaction cooled to 0° C. Methyl3-(cyclohexylamino)propanoate (9.5 g, 0.052 mol) in THF (30 mL) was slowly added. The cooling bath was removed and the reaction was stirred at room temperature for 1 hour. To the reaction mixture was added saturated NH4OH(aq) (100 mL), and the reaction heated at 55° C. for 4 hours using a dry ice condenser. The reaction mixture was extracted with DCM (3×100 ml), and combined organic extracts dried and evaporated. The residue was dissolved in methanol (200 mL). Ammonium formate (33 g, 0.52 mol) and 10% palladium (1.5 g) were added. The reaction was heated at reflux for 5 hours, filtered and the methanol evaporated to yield a dark orange solid, which was quenched with 2.0 N NaOH(aq) (100 mL), extracted with DCM (3×150 mL), and combined extracts dried and evaporated to yield an orange solid. Hot acetonitrile was added, this was stirred and then sonicated to give a precipitate that was filtered and dried to yield the title compound as a yellow solid (7.5 g, 55%).

reactant | 2,4-dichloro-5-nitropyrimidine | 0.052 mol, 10 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | DIPEA | 0.062 mol, 11 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Methyl3-(cyclohexylamino)propanoate | 0.052 mol, 9.5 g | COC(CCNC1CCCCC1)=O | C10H19NO2
reactant | Ammonium formate | 0.52 mol, 33 g | C(=O)[O-].[NH4+]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | palladium | 1.5 g | [Pd] | Pd
solvent | acetonitrile | C(C)#N | C2H3N
product | 10-amino-2-cyclohexyl-2,6,9,11-tetrazabicyclo[5.4.0]undeca-7,9,11-trien-5-one | 7.5 g, 55% | NC1=NC=C2NC(CCN(C2=N1)C1CCCCC1)=O | C13H19N5O
